US06391901B1
Preparation of 6-Hydroxy-3-[3-methyl-4-[(1-pyrrolidinyl)-methyl]benzyl]-2-[4-(2-oxoimidazolidin-4-ylmethoxy)phenyl]-benzo[b]thiophene Oxalate
By essentially following the conditions detailed in Example 8, Part F, the free base of the title compound was prepared as a solid from 6-benzyloxy-3-[3-methyl-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-(3-benzyloxycarbonyl-2-oxo-imidazolidin-4-ylmethoxy)phenyl]benzo[b]thiophene (Part A) in 42% yield following radial chromatography (SiO2; 1% then 3% then 5% MeOH in CHCl3 sat'd with NH4OH). The product was converted to the oxalate salt according to the conditions described in Example 1; Part G.

reactant | 6-benzyloxy-3-[3-methyl-4-[(1-pyrrolidinyl)methyl]benzyl]-2-[4-(3-benzyloxycarbonyl-2-oxo-imidazolidin-4-ylmethoxy)phenyl]benzo[b]thiophene | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)C)C2=CC=C(C=C2)OCC2N(C(NC2)=O)C(=O)OCC2=CC=CC=C2)C1 | C46H45N3O5S
reactant | MeOH | CO | CH4O
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-Hydroxy-3-[3-methyl-4-[(1-pyrrolidinyl)-methyl]benzyl]-2-[4-(2-oxoimidazolidin-4-ylmethoxy)phenyl]-benzo[b]thiophene Oxalate | 42% yield | C(C(=O)O)(=O)O.OC=1C=CC2=C(SC(=C2CC2=CC(=C(C=C2)CN2CCCC2)C)C2=CC=C(C=C2)OCC2NC(NC2)=O)C1 | InChI=1S/C31H33N3O3S.C2H2O4/c1-20-14-21(4-5-23(20)18-34-12-2-3-13-34)15-28-27-11-8-25(35)16-29(27)38-30(28)22-6-9-26(10-7-22)37-19-24-17-32-31(36)33-24;3-1(4)2(5)6/h4-11,14,16,24,35H,2-3,12-13,15,17-19H2,1H3,(H2,32,33,36);(H,3,4)(H,5,6)
